US08357706B2
To a stirring solution of (4-bromopyridin-2-yl)methanol (1.50 g, 8.0 mmol) in DCM (4 mL) was added tert-butylchlorodimethylsilane (1.20 g, 8.0 mmol) following by TEA (1.60 g, 12.0 mmol). The reaction mixture was stirred at room temperature for 12 h then washed with brine and EA. The combined organic layers were dried over MgSO4, filtered, and concentrated to yield an amber liquid. The crude product was purified by chromatography (EA/Hexanes) to produce 1.67 g (70%) of 4-bromo-2-((tert-butyldimethylsilyloxy)methyl)pyridine INT-70 as a light yellow liquid. LCMS-ESI (m/z) calculated for C12H20BrNOSi: 302.3; found 303.0 [M+H]+, tR=4.87 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 8.30 (d, J=5.3, 1H), 7.68 (dd, J=1.9, 0.7, 1H), 7.35-7.24 (m, 1H), 4.80 (s, 2H), 0.99-0.86 (m, 9H), 0.16-0.06 (m, 6H).

reactant | (4-bromopyridin-2-yl)methanol | 8.0 mmol, 1.50 g | BrC1=CC(=NC=C1)CO | C6H6BrNO
reactant | tert-butylchlorodimethylsilane | 8.0 mmol, 1.20 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-((tert-butyldimethylsilyloxy)methyl)pyridine | 1.67 g, 70% | BrC1=CC(=NC=C1)CO[Si](C)(C)C(C)(C)C | C12H20BrNOSi
